US04254116
5,5-Dimethyl-8-[5-phenyl-2-pentyl]-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-[5-phenyl-2-pentyl]-5H-[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-[5-phenyl-2-pentyl]-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCC2=CC=CC=C2)O)C=2C1=CC=NC2)C | C25H27NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-[5-phenyl-2-pentyl]-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)CCCC2=CC=CC=C2)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C34H42N2O3.ClH/c1-25(12-10-15-26-13-6-4-7-14-26)27-22-30(38-32(37)16-11-21-36-19-8-5-9-20-36)33-28-24-35-18-17-29(28)34(2,3)39-31(33)23-27;/h4,6-7,13-14,17-18,22-25H,5,8-12,15-16,19-21H2,1-3H3;1H
